US07344702B2
Synthesis of 2-tert-butyl-4-bromomethyl-5-chloro 3(2H)-pyridazinone
2-tert-butyl-4-methyl-5-chloro 3(2H)-pyridazinone (3 g, 15 mmol) is dissolved in 25 ml of carbon tetrachloride and to it is added N-bromosuccinimide (2.6 g, 15 mmol) and benzoyl peroxide (14 mg). The mixture is then refluxed for 6 hours after which it is cooled and filtered. The filtrate is washed with water and dried. After removing the organic solvent the crude residue obtained is purified by flash chromatography (silica gel; ethyl acetate/hexanes: 9:1) to obtain the product.

reactant | 2-tert-butyl-4-methyl-5-chloro 3(2H)-pyridazinone | 15 mmol, 3 g | C(C)(C)(C)N1N=CC(=C(C1=O)C)Cl | C9H13ClN2O
reactant | N-bromosuccinimide | 15 mmol, 2.6 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 14 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 25 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-tert-butyl-4-bromomethyl-5-chloro 3(2H)-pyridazinone | C(C)(C)(C)N1N=CC(=C(C1=O)CBr)Cl | C9H12BrClN2O
